US08097718B2
Preparation of 5-Amino-3H-oxazolo[4,5-d]pyrimidin-2-one (50)
2,4-Diamino-pyrimidin-5-ol (500 mg, 3.97 mmol) [prepared according to the method of Hull. J. Chem. Soc. 1956, 2033-2035] was suspended in DMF (10 mL). To this was added consecutively NaH (86.7 mg, 3.77 mmol) and CDI (707 mg, 4.36 mmol), and the reaction mixture was heated with vigorous stirring at 60° C. for 3 h. The mixture was cooled to ambient temperature, and then quenched with water (25 mL). The solvent and water were removed via rotary evaporation, and the residue was then triturated in water (5 mL). The solid was then collected by filtration and dried, affording 230 mg (38%): 1H NMR (400 MHz, d6-DMSO) δ 11.90 (br s, 1H), 7.72 (br s, 1H), 6.72 (s, 2H); Analysis calc'd for C5H4N4O2.0.2 H2O: C, 38.56; H, 2.85; N, 35.98. Found: C, 39.01; H, 2.71; N, 35.58; [M+H]+ m/z 153.

reactant | 2,4-Diamino-pyrimidin-5-ol | 3.97 mmol, 500 mg | NC1=NC=C(C(=N1)N)O | C4H6N4O
reactant | NaH | 3.77 mmol, 86.7 mg | [H-].[Na+]
reactant | CDI | 4.36 mmol, 707 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | H2O | O | H2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 5-Amino-3H-oxazolo[4,5-d]pyrimidin-2-one | NC=1N=CC2=C(N1)NC(O2)=O | C5H4N4O2
